.subckt NOR_2X IN1 IN2 OUT VDD GND
mp1 OUT IN1 NET VDD P_18 w=0.67u l=0.18u
mp2 NET IN2 VDD VDD P_18 w=0.67u l=0.18u
mn1 OUT IN1 GND GND N_18 w=0.67u l=0.18u
mn2 OUT IN2 GND GND N_18 w=0.67u l=0.18u
.ends
