.subckt FA a b c_in sum c_out VDD GND
x_inv0 a inv_a VDD GND INV_2X
x_mux0 a inv_a b r0 VDD GND MUX21
x_inv1 r0 inv_r0 VDD GND INV_2X
x_mux1 r0 inv_r0 c_in sum VDD GND MUX21
x_mux2 GND a b r1 VDD GND MUX21
x_mux3 a VDD b r2 VDD GND MUX21
x_mux4 r1 r2 c_in c_out VDD GND MUX21
.ends


.subckt INV_2X IN OUT VDD GND
mp0 OUT IN VDD VDD P_18 w=0.53u l=0.18u
mn0 OUT IN GND GND N_18 w=0.51u l=0.18u
.ends

.subckt MUX21 in1 in2 ctrl out VDD GND
mp0 invctrl ctrl VDD VDD P_18 w=0.57u l=0.18u
mn0 invctrl ctrl GND GND N_18 w=0.50u l=0.18u
mp1 out ctrl in1 VDD P_18 w=0.57u l=0.18u
mn1 in1 invctrl out GND N_18 w=0.50u l=0.18u
mp2 out invctrl in2 VDD P_18 w=0.57u l=0.18u
mn2 in2 ctrl out GND N_18 w=0.50u l=0.18u
.ends

