.subckt MUX21 in1 in2 ctrl out VDD GND
mp0 invctrl ctrl VDD VDD P_18 w=0.57u l=0.18u
mn0 invctrl ctrl GND GND N_18 w=0.50u l=0.18u
mp1 out ctrl in1 VDD P_18 w=0.57u l=0.18u
mn1 in1 invctrl out GND N_18 w=0.50u l=0.18u
mp2 out invctrl in2 VDD P_18 w=0.57u l=0.18u
mn2 in2 ctrl out GND N_18 w=0.50u l=0.18u
.ends

