.subckt aoi21 in1 in2 in3 out vdd gnd
mp1 y1 in1 vdd vdd P_18 w=0.51u l=0.18u
mp2 y1 in2 vdd vdd P_18 w=0.51u l=0.18u
mn1 w1 in1 gnd gnd N_18 w=0.50u l=0.18u
mn2 y1 in2 w1 gnd N_18 w=0.50u l=0.18u
mp3 y2 y1 vdd vdd P_18 w=0.51u l=0.18u
mn3 y2 y1 gnd gnd N_18 w=0.49u l=0.18u
mp4 w2 y2 vdd vdd P_18 w=0.51u l=0.18u
mp5 out in3 w2 vdd P_18 w=0.51u l=0.18u
mn4 out y2 gnd gnd N_18 w=0.49u l=0.18u
mn5 out in3 gnd gnd N_18 w=0.49u l=0.18u
.ends